US07511038B2
6-(3-Chlorophenyl)-2-ethyl-2H-pyridazin-3-one
Under nitrogen atmosphere bromoethane (18.31 g, 0.168 mol) was added dropwise to a solution of 6-(3-chlorophenyl)-2H-pyridazin-3-one (4.96 g, 0.024 mol) and potassium carbonate (19.90 g, 0.144 mol) in N,N-dimethylformamide (100 ml). The mixture was stirred at room temperature for 4 hours and then water (150 ml) and ethyl acetate (300 ml) were added. The organic layer washed with water and brine, dried over sodium sulfate anhydride and evaporated. The oil obtained solidified in the vacuum oven to yield the title compound (96%).

reactant | bromoethane | 0.168 mol, 18.31 g | BrCC | C2H5Br
reactant | 6-(3-chlorophenyl)-2H-pyridazin-3-one | 0.024 mol, 4.96 g | ClC=1C=C(C=CC1)C=1C=CC(NN1)=O | C10H7ClN2O
reactant | potassium carbonate | 0.144 mol, 19.90 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 150 ml | O | H2O
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | 6-(3-Chlorophenyl)-2-ethyl-2H-pyridazin-3-one | 96% | ClC=1C=C(C=CC1)C=1C=CC(N(N1)CC)=O | C12H11ClN2O
